US05591850
A 100 ml sulfonating flask equipped with stirrer, condenser, drying tube, dropping funnel and internal thermometer is charged under inert gas (dry nitrogen) with 3.65 g (0.15 mol) of magnesium turnings, and a few crystals of iodine are added as catalyst. 150 ml of anhydrous tetrahydrofuran are added, and a solution of 42.8 g (0.15 mol) of 4-(2-ethylhexyloxy)bromobenzene in 30 ml of tetrahydrofuran is added dropwise over a period of 45 minutes (room temperature). After slight heating on a water bath (40° C.), the Grignard reaction starts (cloudiness, exothermic reaction). The reaction mixture is stirred at 40° C. for one hour and then under reflux (66° C.) until the magnesium is almost completely dissolved (about 30 minutes). After cooling to room temperature, the Grignard solution is added dropwise at 0°-20° C. to a solution of 9.2 g (0.05 mol) of cyanuric chloride in 40 ml of tetrahydrofuran over a period of 60 minutes (350 ml sulfonating flask, stirrer, condenser, drying tube, dropping funnel, internal thermometer, inert gas). The mixture is stirred overnight under reflux (66° C.) and then evaporated to dryness. The residue is stirred in 100 ml of ice 2N hydrochloric acid and then extracted with 200 ml of toluene. The organic phase is shaken twice with 10% brine, dried over sodium sulfate and evaporated. The crude product (40.3 g, red oil) is still very impure (thin-layer chromatogram). For purification it is dissolved in 80 ml of 1:1 toluene/hexane and chromatographed over silica gel (5 cm×45 cm). 18.2 g (69.5%) of 2-chloro-4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazine are isolated as a yellow resin.

reactant | magnesium | 0.15 mol, 3.65 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-(2-ethylhexyloxy)bromobenzene | 0.15 mol, 42.8 g | C(C)C(COC1=CC=C(C=C1)Br)CCCC | C14H21BrO
reactant | cyanuric chloride | 0.05 mol, 9.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-chloro-4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazine | 18.2 g, 69.5% | ClC1=NC(=NC(=N1)C1=CC=C(C=C1)OCC(CCCC)CC)C1=CC=C(C=C1)OCC(CCCC)CC | C31H42ClN3O2
